US04918083
α-(4-Chlorophenyl)-1,2-benzenedimethanol
A mixture of 55 g (0.3M) of 2-(4-chlorobenzoyl) benzoic acid, 5 ml of concentrated sulphuric acid and 500 ml of methanol was heated under reflux for 3 hours. The mixture was evaporated and the residue was taken up in dichloromethane washed with water then aqueous sodium bicarbonate. The dichloromethane was dried and evaporated. The residue was then reduced with lithium aluminium hydride in an analogous manner to that described in Example X1 to give the title compound.

reactant | 2-(4-chlorobenzoyl) benzoic acid | 0.3M, 55 g | ClC1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C14H9ClO3
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 500 ml | CO | CH4O
product | α-(4-Chlorophenyl)-1,2-benzenedimethanol | ClC1=CC=C(C=C1)C(O)C=1C(=CC=CC1)CO | C14H13ClO2
